US07915411B2
A solution of 4-chloro-3-nitro-phenol was reacted with 2-Bromomethyl-pyridine hydrobromide salt using the conditions described in Example 10C to provide 2-(4-Chloro-3-nitro-phenoxymethyl)-pyridine which was treated sequentially using the procedures from Examples 10D and 10E to provide the title product.

reactant | 4-chloro-3-nitro-phenol | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 2-Bromomethyl-pyridine hydrobromide salt | Br.BrCC1=NC=CC=C1
product | 2-(4-Chloro-3-nitro-phenoxymethyl)-pyridine | ClC1=C(C=C(OCC2=NC=CC=C2)C=C1)[N+](=O)[O-] | C12H9ClN2O3
